US09402841B2
Step B: (S)-tert-butyl 3-((7-chloro-3-(hydrazinyl(imino)methyl)isoquinolin-1-yl)amino)pyrrolidine-1-carboxylate
To a mixture of (S)-tert-butyl 3-((7-chloro-3-cyanoisoquinolin-1-yl)amino)pyrrolidine-1-carboxylate (660 mg, 1.77 mmol) in MeOH (5 mL) was added NH2NH2—H2O (5 mL) and the resulting mixture was heated to reflux for 2 hours. The solvent was subsequently removed to give the title compound as a yellow solid, which was used without further purification (710 mg). ESI-MS m/z [M+H]+ 405.

reactant | (S)-tert-butyl 3-((7-chloro-3-cyanoisoquinolin-1-yl)amino)pyrrolidine-1-carboxylate | 1.77 mmol, 660 mg | ClC1=CC=C2C=C(N=C(C2=C1)N[C@@H]1CN(CC1)C(=O)OC(C)(C)C)C#N | C19H21ClN4O2
reactant | NH2NH2—H2O | 5 mL | NN.O
solvent | MeOH | 5 mL | CO | CH4O
product | (S)-tert-butyl 3-((7-chloro-3-(hydrazinyl(imino)methyl)isoquinolin-1-yl)amino)pyrrolidine-1-carboxylate | ClC1=CC=C2C=C(N=C(C2=C1)N[C@@H]1CN(CC1)C(=O)OC(C)(C)C)C(=N)NN | C19H25ClN6O2
